US05646173
A solution of 9.45 g of 6-cyclopentoxy-1-indanone, 9.0 ml of 3-buten-2-ol and 100 mg of p-toluenesulfonic acid in 100 ml of 2,2-dimethoxy-propane was boiled under reflux for 63 hours on a water separator filled with molecular sieve (0.4 nm, 2 mm pearl shaped). The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 6:1). There were obtained 8.1 g (69%) of (RS)-2-(2-buten-1-yl)-6-cyclopentoxy-1-indanone as a yellow oil.

reactant | 6-cyclopentoxy-1-indanone | 9.45 g | C1(CCCC1)OC1=CC=C2CCC(C2=C1)=O | C14H16O2
reactant | 3-buten-2-ol | 9.0 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | 2,2-dimethoxy-propane | 100 ml | COC(C)(C)OC | C5H12O2
product | (RS)-2-(2-buten-1-yl)-6-cyclopentoxy-1-indanone | 8.1 g, 69% | C(C=CC)C1C(C2=CC(=CC=C2C1)OC1CCCC1)=O | C18H22O2
